US09029411B2
To a solution of methyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate (3.40 g, 10 mmol) in tetrahydrofuran (80 mL) and water (16 mL) was added a solution of 1.00M sodium hydroxide in water (30 mL). The solution was allowed to stir overnight. The reaction was quenched with a solution of 1N hydrogen chloride in water (50 mL) and diluted with water (400 mL). The resultant precipitate was filtered, washed with water (2×100 mL) and dried in a vacuum oven to give 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylic acid (2.6 g, 79%) as a white solid. LCMS: (FA) ES+ 326.

reactant | methyl 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylate | 10 mmol, 3.40 g | C(#N)C=1C(=C(SC1SC)C(=O)OC)I | C8H6INO2S2
reactant | sodium hydroxide | 1.00M | [OH-].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | water | 16 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 4-cyano-3-iodo-5-(methylsulfanyl)thiophene-2-carboxylic acid | 2.6 g, 79% | C(#N)C=1C(=C(SC1SC)C(=O)O)I | C7H4INO2S2
